US09108957B2
To a solution of 2-chloro-3-methyl-6-(pyrimidin-4-yl)-3H-pyrimidin-4-one (1.00 g, 4.49 mmol) and (R)-2-(3-bromophenyl)-[1,4]oxazepane (1.58 g, 5.39 mmol) was added triethylamine (1.36 g, 13.5 mmol) at room temperature. The mixture was stirred at room temperature for 9 hours. The mixture was partitioned between water and chloroform. The organic layer was washed with brine, dried over sodium sulfate and concentrated in vacuo. The residue was purified by silica gel column chromatography (eluant: ethyl acetate) to afford (R)-2-[2-(3-bromo-phenyl)-[1,4]oxazepan-4-yl]-1-methyl-1H-[4,4′]bipyrimidinyl-6-one (A079) as white solid (1.65 g, 83%).

reactant | 2-chloro-3-methyl-6-(pyrimidin-4-yl)-3H-pyrimidin-4-one | 4.49 mmol, 1.00 g | ClC1=NC(=CC(N1C)=O)C1=NC=NC=C1 | C9H7ClN4O
reactant | (R)-2-(3-bromophenyl)-[1,4]oxazepane | 5.39 mmol, 1.58 g | BrC=1C=C(C=CC1)[C@H]1OCCCNC1 | C11H14BrNO
reactant | triethylamine | 13.5 mmol, 1.36 g | C(C)N(CC)CC | C6H15N
product | (R)-2-[2-(3-bromo-phenyl)-[1,4]oxazepan-4-yl]-1-methyl-1H-[4,4′]bipyrimidinyl-6-one | BrC=1C=C(C=CC1)[C@H]1OCCCN(C1)C=1N(C(C=C(N1)C1=NC=NC=C1)=O)C | C20H20BrN5O2
